US07211601B2
N-{[(2S,4EZ)-2-(1H-benzimidazol-2-yl)-4-(chloromethylene)pyrrolidinyl]-carbonyl}benzamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(chloromethylene)-2-pyrrolidinecarboxylic acid, benzoyl isocyanate, and 1,2-benzenediamine the title compound was obtained in 51% purity by LC/MS. MS(ESI+): m/z=381.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(chloromethylene)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=CCl)C(=O)O | C11H16ClNO4
reactant | benzoyl isocyanate | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
reactant | 1,2-benzenediamine | C=1(C(=CC=CC1)N)N | C6H8N2
product | N-{[(2S,4EZ)-2-(1H-benzimidazol-2-yl)-4-(chloromethylene)pyrrolidinyl]-carbonyl}benzamide | N1C(=NC2=C1C=CC=C2)[C@H]2N(CC(C2)=CCl)C(=O)NC(C2=CC=CC=C2)=O | C20H17ClN4O2
